US04965257
A solution of 4-iodobenzoyl chloride (11.5 gms) in dry ether (50 ml) was added to a stirred solution of 3-ethyl-3-hydroxymethyloxetane (5 gms) and pyridine (3.5 mls) in ether (100 ml) at 0° C. The resulting mixture was allowed to warm to room temperature and stirred for 24 hours. After this time the mixture was washed with water and brine. The organic extracts were dried over anhydrous magnesium sulphate and then evaporated in vacuo. The residue was purified by column chromatography on silica (preeluted with 1% triethylamine in hexane) and eluted with 5% ethyl acetate in hexane. 3-Ethyl-3-(4-iodobenzoyloxymethyl) oxetane was obtained as a colourless oil (8.1 gms).

reactant | 4-iodobenzoyl chloride | 11.5 gms | IC1=CC=C(C(=O)Cl)C=C1 | C7H4ClIO
reactant | 3-ethyl-3-hydroxymethyloxetane | 5 gms | C(C)C1(COC1)CO | C6H12O2
reactant | pyridine | 3.5 mls | N1=CC=CC=C1 | C5H5N
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | ether | 100 ml | CCOCC | C4H10O
product | 3-Ethyl-3-(4-iodobenzoyloxymethyl) oxetane | C(C)C1(COC1)COC(C1=CC=C(C=C1)I)=O | C13H15IO3
